US07125896B2
b) 4,4-Difluoro-1-(4-bromobenzyl)piperidine
4-Bromobenzyl bromide (1.55 g) and 4,4-difluoropiperidine (1.50 g) were stirred in dimethylformamide (30 ml) for 18 h. The mixture was partitioned between diethyl ether (40 ml) and water (40 ml). The aqueous phase was extracted further with ether (40 ml) and the combined organic phases were washed with water (50 ml), dried (MgSO4) and concentrated in vacuo to give the product as a white crystalline solid (1.57 g).

reactant | 4-Bromobenzyl bromide | 1.55 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | 4,4-difluoropiperidine | 1.50 g | FC1(CCNCC1)F | C5H9F2N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4,4-Difluoro-1-(4-bromobenzyl)piperidine | 1.57 g | FC1(CCN(CC1)CC1=CC=C(C=C1)Br)F | C12H14BrF2N
